US07618980B2
Part B. tert-Butyl 2-formyl-6-(trifluoromethyl)phenylcarbamate
To a solution of tert-butyl 2-(trifluoromethyl)phenylcarbamate (1.0 g, 3.83 mmol) and N,N,N′N′-tetramethylethylenediamine (1.27 mL, 8.43 mmol) in 20 mL of anhydrous THF at −78° C. was added sec-butyllithium (8.43 mL of a 1.0 M solution in hexanes, 8.43 mmol) dropwise over 15 min. The reaction was stirred at −78° C. for 1 h and then there was added DMF (0.33 mL, 4.21 mmol). The reaction was stirred at −78° C. for 1 h and then was quenched with sat'd aq NH4Cl (10 mL) and allowed to warm to ambient temperature. The reaction mixture was diluted with water and extracted with EtOAc. The organics were washed with 1N HCl and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (230-400 mesh silica gel, elution with 6:1 hexane/EtOAc) to afford 0.4 g (36%) of the title compound. 1H NMR (CDCl3): δ 10.06 (s, 1H), 8.07 (d, 1H, J=7.7 Hz), 7.83 (d, 1H, J=7.8 Hz), 7.43 (t, 1H, J=7.8 Hz), 6.83 (broad s, 1H), 1.47 (s, 9H). LRMS (ESI): 290.15 (M+H)+.

reactant | tert-butyl 2-(trifluoromethyl)phenylcarbamate | 3.83 mmol, 1.0 g | FC(C1=C(C=CC=C1)NC(OC(C)(C)C)=O)(F)F | C12H14F3NO2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | DMF | 4.21 mmol, 0.33 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-formyl-6-(trifluoromethyl)phenylcarbamate | 0.4 g, 36% | C(=O)C1=C(C(=CC=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C13H14F3NO3
